data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cc(F)ccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1cc(F)ccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1cc(F)ccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cc(F)ccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1cc(F)ccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cc(F)ccc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1cc(F)ccc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1cc(F)ccc1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1cc(F)ccc1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1cc(F)ccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1cc(F)ccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1cc(F)ccc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1cc(F)ccc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1cc(F)ccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1cc(F)ccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1cc(F)ccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(F)cc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "Cc1cc(F)cc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "Cc1cc(F)cc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "Cc1cc(F)cc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1cc(F)cc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1cc(F)cc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(C)C2(C)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(C)C(C)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(C)C(C)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(C)C(C)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(C)C(C)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(C)C(C)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "Cc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "Cc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(C)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(C)c1", "products": "Cc1cccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(F)C2C(OC)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(F)CC1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(F)CC1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(F)CC1(OC)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(F)CC1(OC)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(F)CC1(OC)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1c(F)cccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "Cc1c(F)cccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "Cc1c(F)cccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1c(F)cccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "Cc1c(F)cccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1c(F)cccc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "Cc1c(F)cccc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "CC1=C(c2cccc(F)c2C)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(F)c2C)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(F)c2C)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(F)c2C)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1c(F)cccc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "Cc1c(F)cccc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "Cc1c(F)cccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "Cc1c(F)cccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "Cc1c(F)cccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
